US07425568B2
a) 1-Chloro-4-ethoxy-2-nitrobenzene
4-Chloro-3-nitrobenzene (5.0 g) was dissolved in acetone and ethyl iodide (2.5 ml) and potassium carbonate (4.4 g) were added. The reaction mixture was stirred at 40° C. for 4½ hours. After cooling to room temperature the mixture was filtered and the filtrate was evaporated to dryness. 1H NMR (400 MHz, d6-DMSO) δ: 7.64 (m, 2H), 7.27 (dd, 1H, J 9.0, 3.1 Hz), 4.12 (q, 2H, J 7.0 Hz), 1.34 (t, 3H, 7.0 Hz).

reactant | 4-Chloro-3-nitrobenzene | 5.0 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | ethyl iodide | 2.5 ml | C(C)I | C2H5I
reactant | potassium carbonate | 4.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-Chloro-4-ethoxy-2-nitrobenzene | ClC1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C8H8ClNO3
